US07834051B2
rac-2-chloro-4-[(2R,3R)-3-hydroxy-2,3,4,4-tetramethyl-5-oxopyrrolidin-1-yl]benzonitrile
A solution of 2-chloro-4-(3,3,5-trimethyl-2,4-dioxopyrrolidin-1-yl)benzonitrile (90 mg) in THF (5 mL) was cooled to −78° C., methylmagnesium bromide-ether solution (0.22 mL, 3 mol/L) was added under a nitrogen atmosphere, and the reaction mixture was warmed to room temperature. The reaction mixture was again cooled to −78° C., a 3mol/L methylmagnesium bromide-ether solution (0.89 mL) was added, and the reaction mixture was warmed to room temperature. The reaction mixture was added to saturated aqueous ammonium chloride solution, and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography, and recrystallized from hexane-ethyl acetate to give the title compound as a colorless solid (yield: 29 mg, 30%).

reactant | 2-chloro-4-(3,3,5-trimethyl-2,4-dioxopyrrolidin-1-yl)benzonitrile | 90 mg | ClC1=C(C#N)C=CC(=C1)N1C(C(C(C1C)=O)(C)C)=O | C14H13ClN2O2
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | THF | 5 mL | C1CCOC1 | C4H8O
product | rac-2-chloro-4-[(2R,3R)-3-hydroxy-2,3,4,4-tetramethyl-5-oxopyrrolidin-1-yl]benzonitrile | yield: 29 mg, 30% | ClC1=C(C#N)C=CC(=C1)N1[C@@H]([C@](C(C1=O)(C)C)(C)O)C | C15H17ClN2O2
